US08232283B2
2-Chloro-N-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl)-6-diethylamino-isonicotinamide
40 mg 2,6-dichloro-N-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl)-isonicotinamide and 50 μl diethylamine were dissolved in 5 ml DMSO and heated at 100° C. in the microwave for 10 min. Addition of further diethylamine and heating in the microwave was repeated multiple times until the reaction was complete. The reaction mixture was purified on HPLC-MS in MeCN/water (1% formic acid) to yield 23 mg.

reactant | 2,6-dichloro-N-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl)-isonicotinamide | 40 mg | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=CC3=C(N=C(N=C3)NCCN(C)C)N(C2=O)OC)C=C(N1)Cl | C24H22Cl3N7O3
reactant | diethylamine | 50 μl | C(C)NCC | C4H11N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 2-Chloro-N-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl)-6-diethylamino-isonicotinamide | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=CC3=C(N=C(N=C3)NCCN(C)C)N(C2=O)OC)C=C(N1)N(CC)CC | C28H32Cl2N8O3
